### PR TITLE
[Merged by Bors] - feat: regularity of the pullback of a vector field on a manifold

### PR DESCRIPTION
**Pull request by sgouezel**
We show that the pullback of a `C^m` vector field on a manifold under a `C^{m+1}` map with invertible derivative is `C^m`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
I have only reviewed the "leaf" parts so far: everything up to the section "ContDiff" in the main file. (Help with that welcome. I will be at a conference next week, so with little time for reviewing.) Only superficial comments.

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 1]
```diff
@@ -896,14 +896,32 @@ theorem inverse_equiv (e : M ≃L[R] M₂) : inverse (e : M →L[R] M₂) = e.sy
...
+    IsInvertible (0 : M →L[R] M₂) ↔ Subsingleton M ∧ Subsingleton M₂ := by
+  refine ⟨fun h ↦ ?_, ?_⟩
+  · rcases h with ⟨e, he⟩
+    have A : Subsingleton M := by
+      refine ⟨fun x y ↦ e.injective ?_⟩
+      change (e : M →L[R] M₂) x = (e : M →L[R] M₂) y
+      simp [he]
+    exact ⟨A, e.toEquiv.symm.subsingleton⟩
+  · rintro ⟨hM, hM₂⟩
+    let e : M ≃L[R] M₂ :=
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:907]: I thought about that, and I decided it was too specific to be worth it. If it shows up again, we'll extract the definition then.

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 2]
```diff
@@ -336,6 +362,302 @@ protected lemma _root_.MDifferentiable.mpullback_vectorField
 
 end MDifferentiability
 
+
+section ContMDiff
+
+variable [IsManifold I n M] [IsManifold I' n M'] [CompleteSpace E]
+-- the next assumptions will usually follow from the previous ones, but they are needed for
+-- the statements to make sense, so we add them here.
+[IsManifold I 1 M] [IsManifold I' 1 M']
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorField.lean:371]: How about:
```suggestion
  -- If `1 < n` then `IsManifold.of_le` shows the following assumptions are redundant.
  -- We include them since they are necessary to make the statement.
  [IsManifold I 1 M] [IsManifold I' 1 M']
```

File: Mathlib/Geometry/Manifold/VectorField.lean [hunk 3]
```diff
@@ -336,6 +362,302 @@ protected lemma _root_.MDifferentiable.mpullback_vectorField
...
+
+/-- The pullback of a `C^m` vector field by a `C^n` function with `m + 1 ≤ n` is `C^m`.
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/VectorField.lean:373]: How about:
```suggestion
/-- The pullback of a `C^m` vector field by a `C^n` function with invertible derivative and
`m + 1 ≤ n` is `C^m`.
```
and elsewhere?

Or do you think too pedantic?

**Review by ocfnash — APPROVED** [review]
Thanks, the only thing that makes me sad is that I couldn't find any real suggestions to make :)

bors d+
